US06090825
C. 4-[-2-(4-Chlorophenyl)-1-hydroxymethyl-2-oxo-ethylcarbamoyl]-piperidine-1-carboxylic acid benzyl ester
To a stirred solution of the 4-[2-(4-chlorophenyl)-2-oxo-ethylcarbamoyl]-piperidine-1-carboxylic acid benzyl ester (8.91 g, 21.5 mmol), prepared as in Part B, and sodium bicarbonate (0.19 g, 2.3 mmol) in a mixture of water (10 mL) and dimethyl sulfoxide (50 mL) in a 50° C. water bath is added aqueous formaldehyde (3.30 mL, 44.0 mmol). After 6 h, the mixture is diluted with water (1 L) and allowed to stand overnight at RT. Filtration gives gummy solids which are triturated with ethyl acetate to give the desired product as white solids.

reactant | 4-[2-(4-chlorophenyl)-2-oxo-ethylcarbamoyl]-piperidine-1-carboxylic acid benzyl ester | 21.5 mmol, 8.91 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(NCC(=O)C1=CC=C(C=C1)Cl)=O | C22H23ClN2O4
reactant | sodium bicarbonate | 2.3 mmol, 0.19 g | C([O-])(O)=O.[Na+]
reactant | formaldehyde | 44.0 mmol, 3.30 mL | C=O | CH2O
solvent | water | 10 mL | O | H2O
solvent | dimethyl sulfoxide | 50 mL | CS(=O)C | C2H6OS
solvent | water | 1 L | O | H2O
product | 4-[-2-(4-Chlorophenyl)-1-hydroxymethyl-2-oxo-ethylcarbamoyl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(NC(C(=O)C1=CC=C(C=C1)Cl)CO)=O | C23H25ClN2O5
